US08686048B2
Intermediate 88: 2′-chloro-3-fluoro-5′-methoxybiphenyl-4-amine
The title compound (134 mg) was prepared from 4-bromo-2-fluoroaniline (150 mg, 0.79 mmol) and 2-chloro-5-methoxylphenylboronic acid (191 mg, 1.02 mmol) as a colourless liquid.

reactant | 4-bromo-2-fluoroaniline | 0.79 mmol, 150 mg | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | 2-chloro-5-methoxylphenylboronic acid | 1.02 mmol, 191 mg | ClC1=C(C=C(C=C1)OC)B(O)O | C7H8BClO3
product | 2′-chloro-3-fluoro-5′-methoxybiphenyl-4-amine | 134 mg | ClC1=C(C=C(C=C1)OC)C1=CC(=C(C=C1)N)F | C13H11ClFNO
